US05925627
2-Cyclopropoxy-5-(trifluoromethoxy)iodobenzene
An ice-cooled solution of sodium nitrite (3.55 g, 51 mmol) in water (10 mL) was added dropwise to a stirred, cooled (0° C.) solution of 2-cyclopropoxy-5-(trifluoromethoxy)benzeneamine (Description 7, 4.8 g, 20.6 mmol) in aqueous hydrochloric acid (5M, 300 mL), maintaining the internal temperature at 0° C. The mixture was stirred at 0° C. for 30 min., then potassium iodide (8.55 g, 51.5 mmol) in water (10 mL) was added dropwise, maintaining the internal temperature at 0° C. The mixture was stirred at 0° C. for 30 min., then allowed to warm up to room temperature and stirred until nitrogen evolution ceased. The mixture was extracted with ether, the organic fraction was washed with aqueous sodium thiosulfate (10%), dried (MgSO4), and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/Et2O (98:2 increasing to 95:5), to give the title compound as a colorless oil (6.23 g, 88%). 1H NMR (360 MHz, CDCl3) δ 7.62 (1H, d, J 2.4 Hz), 7.20 (1H, dd, J 9.1, 2.4 Hz), 7.15 (1H, d, J 9.1 Hz), 3.80 (1H, m), and 0.83 (4H, m).

reactant | sodium nitrite | 51 mmol, 3.55 g | N(=O)[O-].[Na+]
reactant | 2-cyclopropoxy-5-(trifluoromethoxy)benzeneamine | 20.6 mmol, 4.8 g | C1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)N | C10H10F3NO2
reactant | potassium iodide | 51.5 mmol, 8.55 g | [I-].[K+]
solvent | water | 10 mL | O | H2O
solvent | hydrochloric acid | 5M, 300 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 2-Cyclopropoxy-5-(trifluoromethoxy)iodobenzene | 6.23 g, 88% | C1(CC1)OC1=C(C=C(C=C1)OC(F)(F)F)I | C10H8F3IO2
